US07056918B2
[4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-5-m-tolyl-pyrazol-1-yl]-acetic acid ethyl ester is prepared according to the procedures outlined in Example 334. [4-(1,3-Diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-5-m-tolyl-pyrazol-1-yl]-acetic acid ethyl ester (388 mg) is diluted with tetrahydrofuran (3 mL) and methanol (4 mL). Lithium borohydride (39 mg) is added and the mixture is stirred at 23° C. for 20 hours. The reaction mixture is diluted with saturated ammonium chloride and extracted with ethyl acetate. The organic layer is dried with sodium sulfate and concentrated. Chromatography on silica gel gave 3-Diethyl-5-[1-(2-hydroxy-ethyl)-5-m-tolyl-1H-pyrazol-4-yl]-1,3-dihydro-benzoimidazol-2-one. 3-Diethyl-5-[-(2-hydroxy-ethyl)-5-m-tolyl-1H-pyrazol-4-yl]-1,3-dihydro-benzoimidazol-2-one (86.5 mg) is diluted with pyridine, (1 mL) cooled to 0° C., and treated with methanesulfonyl chloride (0.02 mL). The reaction mixture is allowed to stir for 20 hours then is treated with water and extracted with dichloromethane. The organic layer is dried with sodium sulfate and concentrated to give Methanesulfonic acid 2-[4-(1,3-diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-5-m-tolyl-pyrazol-1-yl]-ethyl ester. Methanesulfonic acid 2-[4-(1,3-diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-5-m-tolyl-pyrazol-1-yl]-ethyl ester (104 mg) is diluted with morpholine (0.15 mL) and methanol (0.9 mL). The reaction is heated to 65° C. for 5 hours then allowed to stand at 23° C. for 20 hours. The reaction mixture is diluted with saturated sodium bacarbonate and extracted with ethyl acetate. Chromatography on silica gel gave 1,3-Diethyl-5-[1-(2-morpholin-4-yl-ethyl)-5-m-tolyl-1H-pyrazol-4-yl]-1,3-dihydro-benzoimidazol-2-one.

reactant | Methanesulfonic acid 2-[4-(1,3-diethyl-2-oxo-2,3-dihydro-1H-benzoimidazol-5-yl)-5-m-tolyl-pyrazol-1-yl]-ethyl ester | 104 mg | C(C)N1C(N(C2=C1C=CC(=C2)C=2C=NN(C2C=2C=C(C=CC2)C)CCOS(=O)(=O)C)CC)=O | C24H28N4O4S
reactant | morpholine | 0.15 mL | N1CCOCC1 | C4H9NO
solvent | methanol | 0.9 mL | CO | CH4O
solvent | sodium | [Na] | Na
product | 1,3-Diethyl-5-[1-(2-morpholin-4-yl-ethyl)-5-m-tolyl-1H-pyrazol-4-yl]-1,3-dihydro-benzoimidazol-2-one | C(C)N1C(N(C2=C1C=CC(=C2)C=2C=NN(C2C=2C=C(C=CC2)C)CCN2CCOCC2)CC)=O | C27H33N5O2
